US07816557B2
Step F. 3-(4-{1-[6-(4-tert-Butyl-phenyl)-pyridin-3-yloxy]-4,4-dimethyl-pentyl}-benzoylamino)-propionic acid
3-(4-{1-[6-(4-tert-Butyl-phenyl)-pyridin-3-yloxy]-4,4-dimethyl-pentyl}-benzoylamino)-propionic acid methyl ester (isomer 1, 80 mg, 0.15 mmol) is dissolved in the tetrahydrofuran (1 mL) and sodium hydroxide solution (5 M, 1.0 mL, 5 mmol) is added. The reaction is monitored by HPLC, and upon complete conversion, the reaction is neutralized with 5N HCl, diluted with diethyl ether and water. The two phases are separated, and the organic layer is washed, dried, and concentrated. The title compound is used without further purification. MS (ES): 515.2 [M−H]−, the structure was also confirmed by proton NMR.

reactant | 3-(4-{1-[6-(4-tert-Butyl-phenyl)-pyridin-3-yloxy]-4,4-dimethyl-pentyl}-benzoylamino)-propionic acid methyl ester | 0.15 mmol, 80 mg | COC(CCNC(C1=CC=C(C=C1)C(CCC(C)(C)C)OC=1C=NC(=CC1)C1=CC=C(C=C1)C(C)(C)C)=O)=O | C33H42N2O4
reactant | sodium hydroxide | 5 mmol, 5 M, 1.0 mL | [OH-].[Na+]
reactant | HCl | 5N | Cl | ClH
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 3-(4-{1-[6-(4-tert-Butyl-phenyl)-pyridin-3-yloxy]-4,4-dimethyl-pentyl}-benzoylamino)-propionic acid | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=N1)OC(CCC(C)(C)C)C1=CC=C(C(=O)NCCC(=O)O)C=C1 | C32H40N2O4
